US06984754B1
(R)-2-(2-Heptylamino)ethanephosphonic acid hydrochloride
A solution of (R)-diethyl 2-(2-heptylamino)ethanephosphonate hydrochloride (0.19 g, 0.68 mmol) in concentrated HCl (7 mL) was heated at 90° C. for 48 hours. The reaction mixture was then evaporated to dryness and the residue triturated with acetone. The white solid was filtered and air-dried giving an 86% overall yield; m.p.=106-112° C. (no lit. value).

reactant | (R)-diethyl 2-(2-heptylamino)ethanephosphonate hydrochloride | 0.68 mmol, 0.19 g | Cl.C[C@H](CCCCC)NCCP(OCC)(=O)OCC
solvent | HCl | 7 mL | Cl | ClH
product | (R)-2-(2-Heptylamino)ethanephosphonic acid hydrochloride | Cl.C[C@H](CCCCC)NCCP(O)(=O)O | InChI=1S/C9H22NO3P.ClH/c1-3-4-5-6-9(2)10-7-8-14(11,12)13;/h9-10H,3-8H2,1-2H3,(H2,11,12,13);1H/t9-;/m1./s1
